US08378104B2
Step D: 3-bromo-2-tert-butylsulfanyl-5-nitro-benzaldehyde
A mixture of 3-bromo-2-fluoro-5-nitro-benzaldehyde (1.0 g, 4 mmol), potassium carbonate (667 mg, 4.8 mmol) and 2-methyl-2-propanethiol (326 mg, 0.40 mL, 3.6 mmol) in dry DMF (5 mL) was heated at 110° C. in a sealed tube for 16 h. The reaction was cooled to RT, water was added, and the mixture extracted with dichloromethane (2×30 mL). The combined organic fractions were washed with water (3×15 mL), dried over sodium sulfate, filtered and concentrated to afford 1.2 g of the crude title compound, which was used without further purification.

reactant | 3-bromo-2-fluoro-5-nitro-benzaldehyde | 4 mmol, 1.0 g | BrC=1C(=C(C=O)C=C(C1)[N+](=O)[O-])F | C7H3BrFNO3
reactant | potassium carbonate | 4.8 mmol, 667 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methyl-2-propanethiol | 3.6 mmol, 0.40 mL, 326 mg | CC(C)(C)S | C4H10S
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-bromo-2-tert-butylsulfanyl-5-nitro-benzaldehyde | 1.2 g | BrC=1C(=C(C=O)C=C(C1)[N+](=O)[O-])SC(C)(C)C | C11H12BrNO3S
